US09056859B2
A solution of methyl (3-fluoro-2-nitrophenyl)acetate (4.5 g, 21 mmol) in 100 mL of EtOAc was added 500 mg of Pd/C. The reaction was stirred at room temperature at 1 atm of H2 for 4 hours. Filtered off the catalyst and the filtration was concentrated to get methyl (2-amino-3-fluorophenyl)acetate.

reactant | methyl (3-fluoro-2-nitrophenyl)acetate | 21 mmol, 4.5 g | FC=1C(=C(C=CC1)CC(=O)OC)[N+](=O)[O-] | C9H8FNO4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | methyl (2-amino-3-fluorophenyl)acetate | NC1=C(C=CC=C1F)CC(=O)OC | C9H10FNO2
